US08202885B2
Prepared using the method described in Jung, Michael E.; Tetrahedron Letters 2005, 46(30), 5057-5061. To a suspension of 2.8 g of phosphorous pentoxide in 30 mL anh. DCM were added 6.1 mL of 2-hexanone followed by 14.4 mL of 2-cyclohexen-1-one at rt. The suspension was cooled to 0° C. with an ice bath before 13 mL of trifluoromethanesulfonic acid was carefully added. The reaction mixture was warmed to rt and then heated at 40° C. overnight. 27 mL of NEt3 were dropwise added at 0° C., the mixture was stirred at rt for 10 min and then evaporated to dryness. Purification by CC with EtOAc-Hept (25:75) yielded 3.37 g of rac-(1R*,4R*)-6-methyl-5-propyl-bicyclo[2.2.2]oct-5-en-2-one as brown oil.

reactant | phosphorous pentoxide | 2.8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-hexanone | 6.1 mL | CC(CCCC)=O | C6H12O
reactant | 2-cyclohexen-1-one | 14.4 mL | C1(C=CCCC1)=O | C6H8O
reactant | trifluoromethanesulfonic acid | 13 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NEt3 | 27 mL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | rac-(1R*,4R*)-6-methyl-5-propyl-bicyclo[2.2.2]oct-5-en-2-one | 3.37 g | CC1=C(C2CC(C1CC2)=O)CCC | C12H18O
